US04791114
Preparation of 5,6-dimethyl-2-(2-pyridylthiomethyl)benzimidazole
A solution of 3.84 g (0.02 mole) of 5,6-dimethyl-2-mercaptomethylbenzimidazole and 1.9 g (0.02 mole) of pyridine N-oxide in 50 ml of acetic anhydride is heated to 100° C. for 4 hours. The acetic anhydride is evaporated off, the residue taken up with acetone and the mixture filtered and concentrated to a volume of 20 ml. From this solution, 2.6 g (48%) of 5,6-dimethyl-2-(2-pyridylthiomethyl)benzimidazole crystallize. The product thereby obtained is identical to that obtained by Method A, and the data for the identification appear in Tables 1 and 2.

reactant | 5,6-dimethyl-2-mercaptomethylbenzimidazole | 0.02 mole, 3.84 g | CC1=CC2=C(N=C(N2)CS)C=C1C | C10H12N2S
reactant | pyridine N-oxide | 0.02 mole, 1.9 g | [N+]1(=CC=CC=C1)[O-] | C5H5NO
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,6-dimethyl-2-(2-pyridylthiomethyl)benzimidazole | CC1=CC2=C(N=C(N2)CSC2=NC=CC=C2)C=C1C | C15H15N3S
